US06297258B1
A mixture of 0.090 g of 4-chloro-6-methoxy-7-(3-pyridin-4-yl-propoxy)-quinoline-3-carbonitrile, 0.050 g of 3-hydroxy-4-methylaniline, 0.039 g of pyridine hydrochloride and 3 ml of ethoxyethanol was stirred under nitrogen at reflux temperature for 20 minutes. The mixture was cooled and filtered. The product was washed with saturated sodium bicarbonate, water, then dried to give 0.080 g of 4-(3-hydroxy-4-methyl-phenylamino)-6-methoxy-7-(3-pyridin-4-yl-propoxy)-quinoline-3-carbonitrile hydrochloride as a solid, dec >153° C. ; mass spectrum (electrospray, m/e): M+H 440.9.

reactant | 4-chloro-6-methoxy-7-(3-pyridin-4-yl-propoxy)-quinoline-3-carbonitrile | 0.090 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCC1=CC=NC=C1)C#N | C19H16ClN3O2
reactant | 3-hydroxy-4-methylaniline | 0.050 g | OC=1C=C(N)C=CC1C | C7H9NO
reactant | pyridine hydrochloride | 0.039 g | Cl.N1=CC=CC=C1
reactant | ethoxyethanol | 3 ml | C(C)OC(C)O | C4H10O2
product | 4-(3-hydroxy-4-methyl-phenylamino)-6-methoxy-7-(3-pyridin-4-yl-propoxy)-quinoline-3-carbonitrile hydrochloride | 0.080 g | Cl.OC=1C=C(C=CC1C)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCC1=CC=NC=C1)C#N | InChI=1S/C26H24N4O3.ClH/c1-17-5-6-20(12-23(17)31)30-26-19(15-27)16-29-22-14-25(24(32-2)13-21(22)26)33-11-3-4-18-7-9-28-10-8-18;/h5-10,12-14,16,31H,3-4,11H2,1-2H3,(H,29,30);1H
